US07511066B2
A. Methyl 2-(3-tert-Butoxycarbonylaminopropoxy)-4-fluoro-benzoate
Using a procedure equivalent to Example 1-F, methyl 4-fluoro-2-hydroxybenzoate and 3-(tert-butoxycarbonylamino)-propanol gave the ether product as a white solid (20.6 g, 84%).

reactant | methyl 4-fluoro-2-hydroxybenzoate | FC1=CC(=C(C(=O)OC)C=C1)O | C8H7FO3
reactant | 3-(tert-butoxycarbonylamino)-propanol | C(C)(C)(C)OC(=O)NCCCO | C8H17NO3
solvent | ether | 20.6 g | CCOCC | C4H10O
product | Methyl 2-(3-tert-Butoxycarbonylaminopropoxy)-4-fluoro-benzoate | C(C)(C)(C)OC(=O)NCCCOC1=C(C(=O)OC)C=CC(=C1)F | C16H22FNO5
